US05506256
(2S)-1-[N-(Benzylaminocarbonyl)-L-prolyl]-2-{[(3,4-methylenedioxy)phenoxy]acetyl} pyrrolidine (Compound 33)
By the same procedure as in Example 21-C), while using (2S)1-[N-(tert-butoxycarbonyl)-L-prolyl]-2-{1-hydroxy-2-[(3,4-methylenedioxy)phenoxy]ethyl} pyrrolidine (2.07 g) and benzyl isocyanate (0.63 ml), there was obtained 2.06 g of the title compound.

reactant | (2S)1-[N-(tert-butoxycarbonyl)-L-prolyl]-2-{1-hydroxy-2-[(3,4-methylenedioxy)phenoxy]ethyl} pyrrolidine | 2.07 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC3=C(C=C2)OCO3)O)CCC1 | C23H32N2O7
reactant | benzyl isocyanate | 0.63 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | (2S)-1-[N-(Benzylaminocarbonyl)-L-prolyl]-2-{[(3,4-methylenedioxy)phenoxy]acetyl} pyrrolidine | 2.06 g | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC3=C(C=C2)OCO3)=O)CCC1 | C26H29N3O6
